US04560701
4-(4,10-Dihydro-10-oxothieno[3,2-c][1]benzoxepin-8-yl)pentyl trifluoroacetate
A stirred suspension of 4.18 g of 4-[4-(2-carboxy-3-thienylmethoxy)penyl]pentanol and 40 ml of sieve dried dichloromethane was treated in one portion with 6.30 g of trifluoroacetic anhydride. The resultant solution was heated for four hours under reflux with exclusion of moisture. The cooled solution was treated with 10 ml of water and stirred for ten minutes at ambient temperature. The phases were separated and the organic phase was washed with 5% sodium bicarbonate solution and saturated brine, dried over anhydrous sodium sulfate, filtered and concentrated. The residue was heated at 40° C. under high vacuum to afford 4.80 g (92.7%) of product as an oil.

reactant | 4-[4-(2-carboxy-3-thienylmethoxy)penyl]pentanol | 4.18 g | C(=O)(O)C=1SC=CC1COC1=CC=C(C=C1)C(CCCO)C | C17H20O4S
reactant | dichloromethane | 40 ml | ClCCl | CH2Cl2
reactant | trifluoroacetic anhydride | 6.30 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | water | 10 ml | O | H2O
product | 4-(4,10-Dihydro-10-oxothieno[3,2-c][1]benzoxepin-8-yl)pentyl trifluoroacetate | 4.80 g, 92.7% | FC(C(=O)OCCCC(C)C=1C=CC2=C(C(C3=C(CO2)C=CS3)=O)C1)(F)F | C19H17F3O4S
